US07345178B2
A mixture of N-(2-chloro-5-methylpyridin-3-yl)-2-nitrobenzamide (5.0 g, 17.1 mmol) and P2S5 (7.6 g, 34.2 mmol) in pyridine (50 mL) and p-xylene (200 mL) was stirred at 140° C. for 20 h. The hot solution was transferred to another flask and the solvent was removed in vacuo. The residue was purified by recrystallization from EtOH to afford 6-methyl-2-(2-nitrophenyl)thiazolo[5,4-b]pyridine as a yellow solid (3.5 g, yield: 75%).

reactant | N-(2-chloro-5-methylpyridin-3-yl)-2-nitrobenzamide | 17.1 mmol, 5.0 g | ClC1=NC=C(C=C1NC(C1=C(C=CC=C1)[N+](=O)[O-])=O)C | C13H10ClN3O3
reactant | P2S5 | 34.2 mmol, 7.6 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
solvent | p-xylene | 200 mL | CC=1C=CC(=CC1)C | C8H10
product | 6-methyl-2-(2-nitrophenyl)thiazolo[5,4-b]pyridine | 3.5 g, yield: 75% | CC=1C=C2C(=NC1)SC(=N2)C2=C(C=CC=C2)[N+](=O)[O-] | C13H9N3O2S
